US06521666B1
Ethyltriphenylphosphonium bromide (4.69 g) was dissolved in anhydrous THF (70 mL) and the mixture cooled to 0-5° C. n-BuLi (5.05 mL of 2.5 M in hexane) was added dropwise and the resulting mixture was stirred at room temperature for 3 h. The mixture was cooled to −78° C. and a solution of 3,5-dimethoxybenzaldehyde (2 g) in anhydrous THF (14 mL) was added. The mixture was allowed to warm up to room temperature then stirred overnight. The mixture was concentrated, and the residue was taken up with AcOEt, washed with water and brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (silica gel; eluent: hexane and AcOEt 10:1) to give 3,5-dimethoxy-1-(1-propenyl)benzene as a mixture of cis and trans isomers (2.15 g).

reactant | n-BuLi | 2.5 M, 5.05 mL | [Li]CCCC
reactant | 3,5-dimethoxybenzaldehyde | 2 g | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
catalyst | Ethyltriphenylphosphonium bromide | 4.69 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 3,5-dimethoxy-1-(1-propenyl)benzene | COC=1C=C(C=C(C1)OC)C=CC | C11H14O2
